US08217045B2
Step 8.2: 3-[[2-Chloro-4-pyridinyl]oxy]-1-naphthalenecarboxylic acid, methyl ester
A stirred mixture of 6-hydroxy-1-naphthalenecarboxylic acid, methyl ester (0.202 g, 1.0 mmol), 2-chloro-4-nitropyridine (0.174 mg, 1.1 mmol) and potassium carbonate (0.276 g, 2 mmol) in dimethylsulphoxide (5 mL) is heated at 70° C. for 1 h. The mixture is poured into water and the crude product is filtered off, washed with water. The crude product is dissolved in ethyl acetate, washed with brine, dried (Na2SO4) and the solvent is evaporated off under reduced pressure to give a residue which is recrystallized from ethylacetate-hexane to afford the title compound as a beige crystalline solid, m.p.: 103-104° C.

reactant | 6-hydroxy-1-naphthalenecarboxylic acid, methyl ester | 1.0 mmol, 0.202 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)OC | C12H10O3
reactant | 2-chloro-4-nitropyridine | 1.1 mmol, 0.174 mg | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 2 mmol, 0.276 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylsulphoxide | 5 mL | CS(=O)C | C2H6OS
product | 3-[[2-Chloro-4-pyridinyl]oxy]-1-naphthalenecarboxylic acid, methyl ester | ClC1=NC=CC(=C1)OC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C17H12ClNO3
